US07601716B2
3-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)-N-ethyl-benzamide
3-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid (35 mg) was coupled with ethylamine as in General Procedure 8 to give the title compound as a yellow solid (3% yield). LCMS: m/z=387.26 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.27 (3H, t, J=7.2 Hz), 3.47 (2H, quartet, J=7.2 Hz), 4.50 (2H, s), 5.28 (2H, s), 7.36 (8H, m), 7.48 (1H, t, J=7.6 Hz), 7.79 (2H, m), 7.84 (1H, s).

reactant | 3-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid | 35 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)C=2C=C(C(=O)O)C=CC2 | C21H17N3O3
reactant | ethylamine | C(C)N | C2H7N
product | 3-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)-N-ethyl-benzamide | 3% yield | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)C=2C=C(C(=O)NCC)C=CC2 | C23H22N4O2
